US06046214
(3R,4R,5R)-3-Benzyloxy-5-hydroxymethyl4-piperidinol (0.1 g, 0.4 mmol) was dissolved in pyridine (0.5 ml) at 0° C. by and acetic anhydride (0.5 ml) was added dropwise over 1 min. Stirring at room temperature for 20 h and evaporation to dryness gave a crude product which was purified on silica gel using ethanol as eluent (yield 55%). The purified 3-benzyloxy-3-acetoxy-5-acetoxymethyl-1-acetylpiperidine (75 mg) was debenzylated in methanol at room temperature using 10% Pd/C as catalyst. Filtration and evaporation to dryness gave 50 mg of crude 4-acetoxy-5-acetoxymethyl-1-acetyl-3-piperidinol which was dissolved in dry methanol (4 ml) containing 50 μl of a 1% sodium methoxide in methanol. After stirring at room temperature for 4 days the solution was evaporated to dryness to give (3R,4R,5R)-1-acetyl-5-hydroxymethyl-3,4-piperidinediol (Yield: 35 mg).

reactant | (3R,4R,5R)-3-Benzyloxy-5-hydroxymethyl4-piperidinol | 0.4 mmol, 0.1 g | C(C1=CC=CC=C1)O[C@@H]1CNC[C@@H]([C@H]1O)CO | C13H19NO3
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-5-acetoxymethyl-1-acetyl-3-piperidinol | 50 mg, yield 55% | C(C)(=O)OC1C(CN(CC1COC(C)=O)C(C)=O)O | C12H19NO6
